US08809333B2
(+/−)-Ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate
Sodium hydride (60% dispersion in mineral oil, 2.33 g, 58.3 mmol) was washed with hexane (2×10 mL) in a 100 mL two neck round bottom flask under nitrogen and then suspended in DMF (30 mL). The suspension was treated dropwise with ethyl 2-(methylsulfonyl)propanoate (10.0 g, 55.49 mmol) in DMF (10 mL). The mixture was stirred for 30 min at RT, cooled to 0° C., and treated dropwise with 1,2-dibromoethane (5.17 mL, 58.8 mmol). The mixture was allowed to warm to room temperature while stirring overnight. The mixture was quenched with saturated ammonium chloride (100 mL) and then extracted with diethyl ether (4×50 mL). The combined organic layers were washed with 50% saturated sodium chloride (4×50 mL), dried (MgSO4), filtered and the filtrate concentrated in vacuo. The crude material was chromatographed over silica gel (350 g, 230-400 mesh) eluting with 10-20% EtOAc/hexane to afford the title compound as a pale yellow oil (7.9 g, 50%). 1H NMR (400 MHz, CHLOROFORM-d) δ 1.33 (t, J=7.05 Hz, 3H) 1.64 (s, 3H) 2.49-2.59 (m, 1H) 2.78 (ddd, J=13.89, 10.16, 6.64 Hz, 1H) 3.05 (s, 3H) 3.33-3.41 (m, 1H) 3.46-3.54 (m, 1H) 4.22-4.37 (m, 2H).

reactant | Sodium hydride | 58.3 mmol, 2.33 g | [H-].[Na+]
reactant | ethyl 2-(methylsulfonyl)propanoate | 55.49 mmol, 10.0 g | CS(=O)(=O)C(C(=O)OCC)C | C6H12O4S
reactant | 1,2-dibromoethane | 58.8 mmol, 5.17 mL | BrCCBr | C2H4Br2
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (+/−)-Ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 7.9 g, 50% | BrCCC(C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
